US05405861
To thionyl chloride (8.0 ml) was gradually added at 0° C. 3-hydroxymethyl-1-methyl-1H-1,2,4-triazole (0.60 g), which was refluxed for 3 hours. The reaction mixture was concentrated under reduced pressure, to which was added diethyl ether. Resulting powder was crystallized from a mixture of ethanol and diethyl ether to give 3-chloromethyl-1-methyl-1H-1,2,4-triazole hydrochloride (1.0 g) as colorless needles, m.p. 69°-70° C.

reactant | thionyl chloride | 8.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-hydroxymethyl-1-methyl-1H-1,2,4-triazole | 0.60 g | OCC1=NN(C=N1)C | C4H7N3O
product | 3-chloromethyl-1-methyl-1H-1,2,4-triazole hydrochloride | 1.0 g | Cl.ClCC1=NN(C=N1)C | InChI=1S/C4H6ClN3.ClH/c1-8-3-6-4(2-5)7-8;/h3H,2H2,1H3;1H
